US07910592B2
n-Butyl lithium (1.6 M in hexanes, 406 μL, 0.649 mmol) was added to a stirred solution of 1-tert-butyl-2-fluoro-5-iodo-4-methoxybenzene (200 mg, 0.649 mmol) in dry THF (2 mL) at −78° C. under N2. The reaction was stirred at −78° C. for 1 h then triisopropyl borate (214 mg, 262 μL, 1.14 mmol) was added dropwise. The reaction was stirred at −78° C. for 1 h and 0° C. for 1 h. 1N HCl was added and the reaction was extracted with EtOAc (3×). The combined extracts were dried (Na2SO4) and concentrated in vacuo to afford (5-tert-butyl-4-fluoro-2-methoxyphenyl)boronic acid. 1H NMR (600 MHz, CDCl3): δ 6.86 (d, J=8.0 Hz, 1H); 6.57 (d, J=13.0 Hz, 1H); 3-85 (s, 3H); 1.33 (s, 9H).

reactant | n-Butyl lithium | 0.649 mmol, 1.6 M, 406 μL | C(CCC)[Li]
reactant | 1-tert-butyl-2-fluoro-5-iodo-4-methoxybenzene | 0.649 mmol, 200 mg | C(C)(C)(C)C1=C(C=C(C(=C1)I)OC)F | C11H14FIO
reactant | triisopropyl borate | 1.14 mmol, 262 μL, 214 mg | B(OC(C)C)(OC(C)C)OC(C)C | C9H21BO3
reactant | HCl | 1N | Cl | ClH
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | (5-tert-butyl-4-fluoro-2-methoxyphenyl)boronic acid | C(C)(C)(C)C=1C(=CC(=C(C1)B(O)O)OC)F | C11H16BFO3
